US07470679B2
tert-Butyl 4-(2-methoxy-2-oxoethylidene)piperidine-1-carboxylate
60% sodium hydride in mineral oil (7.92 g, 198.02 mmoles) was washed with hexanes then suspended in N,N-dimethylformamide (220.00 mL). The mixture was cooled to 0° C. Trimethyl phosphonoacetate (29.0 mL,189.82 mmoles) was added drop-wise to the reaction. The mixture was held at 0° C. with stirring on and held for 20 min. A solution of N-tert-butoxycarbonyl-4-piperidone (30.41 g, 152.62 mmoles) in 80 mL N,N-dimethylformamide was added to the mixture drop-wise. Reaction was stirred at room temperature for 3 hours. Mixture was diluted with diethyl ether (650 mL). Mixture was washed once with water. Aqueous layer was back extracted once with diethyl ether. Organic layers were combined. The mixture was washed 4 times with water and the aqueous phase was discarded. The mixture was washed with brine and the aqueous phase was discarded. The material was dried over MgSO4, filtered, and concentrated to dryness. Title compound was obtained as white solid in 92% yield. 1H NMR (300 MHz, CDCl3): δ=5.68 (s, 1H), 3.66 (s, 3H), 3.40-3.51 (m, 4H), 2.90 (t, J=5.49, 2H), 2.25 (t, J=5.49, 2H), 1.44 (s, 9H).

reactant | sodium hydride | [H-].[Na+]
reactant | Trimethyl phosphonoacetate | 189.82 mmoles, 29.0 mL | COC(=O)CP(=O)(OC)OC | C5H11O5P
reactant | N-tert-butoxycarbonyl-4-piperidone | 152.62 mmoles, 30.41 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
solvent | N,N-dimethylformamide | 220.00 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | 650 mL | C(C)OCC | C4H10O
product | tert-Butyl 4-(2-methoxy-2-oxoethylidene)piperidine-1-carboxylate | 92% yield | COC(C=C1CCN(CC1)C(=O)OC(C)(C)C)=O | C13H21NO4
